**************************************************
* Manufacturer:       Wurth Elektronik 
* Kinds:      Inductor
* Matchcode:          WE-PMMI
* Library Type:       spice
* Version:        rev19b
* Created/modified by:    Fredo       
* Date and Time   :       6/20/2019
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt 0805_74479974133_0.33u 1 2
Rp 1 2 230
Cp 1 2 45p
Rs 1 N3 0.055
L1 N3 2 0.33u
.ends 0805_74479974133_0.33u
*******
.subckt 0805_74479974147_0.47u 1 2
Rp 1 2 300
Cp 1 2 47p
Rs 1 N3 0.068
L1 N3 2 0.47u
.ends 0805_74479974147_0.47u
*******
.subckt 0805_74479974156_0.56u 1 2
Rp 1 2 320
Cp 1 2 48p
Rs 1 N3 0.08
L1 N3 2 0.56u
.ends 0805_74479974156_0.56u
*******
.subckt 0806_74479976124_0.24u 1 2
Rp 1 2 110
Cp 1 2 60p
Rs 1 N3 0.015
L1 N3 2 0.24u
.ends 0806_74479976124_0.24u
*******
.subckt 0806_74479976133_0.33u 1 2
Rp 1 2 200
Cp 1 2 70p
Rs 1 N3 0.018
L1 N3 2 0.33u
.ends 0806_74479976133_0.33u
*******
.subckt 0806_74479976147_0.47u 1 2
Rp 1 2 250
Cp 1 2 85p
Rs 1 N3 0.024
L1 N3 2 0.47u
.ends 0806_74479976147_0.47u
*******
.subckt 0806_74479976147A_0.47u 1 2
Rp 1 2 190
Cp 1 2 90p
Rs 1 N3 0.02
L1 N3 2 0.47u
.ends 0806_74479976147A_0.47u
*******
.subckt 0806_74479976210_1u 1 2
Rp 1 2 440
Cp 1 2 75p
Rs 1 N3 0.075
L1 N3 2 1u
.ends 0806_74479976210_1u
*******
.subckt 0806_74479976215_1.5u 1 2
Rp 1 2 460
Cp 1 2 95p
Rs 1 N3 0.1
L1 N3 2 1.5u
.ends 0806_74479976215_1.5u
*******
.subckt 0806_74479977124_0.24u 1 2
Rp 1 2 160
Cp 1 2 40p
Rs 1 N3 0.035
L1 N3 2 0.24u
.ends 0806_74479977124_0.24u
*******
.subckt 0806_74479977147_0.47u 1 2
Rp 1 2 225
Cp 1 2 60p
Rs 1 N3 0.055
L1 N3 2 0.47u
.ends 0806_74479977147_0.47u
*******
.subckt 0806_74479977156_0.56u 1 2
Rp 1 2 335
Cp 1 2 57p
Rs 1 N3 0.065
L1 N3 2 0.56u
.ends 0806_74479977156_0.56u
*******
.subckt 0806_74479977182_0.82u 1 2
Rp 1 2 350
Cp 1 2 70p
Rs 1 N3 0.09
L1 N3 2 0.82u
.ends 0806_74479977182_0.82u
*******
